US07119086B2
A) tert-Butyl 4-(1,3-thiazol-2-yl)-1-piperazinecarboxylate
A mixture of 5 g of tert-butyl 1-piperazinecarboxylate, 4.4 g of 2-bromo-1,3-thiazole and 7.4 g of K2CO3 in 50 ml of EtOH is refluxed for 4 days. Water is added to the reaction mixture, the EtOH is evaporated off under vacuum, the resulting aqueous phase is extracted with EtOAc, the organic phase is washed with saturated K2CO3 solution and with saturated NaCl solution and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is chromatographed on silica gel, eluting with a DCM/MeOH mixture (98/2; v/v). 5 g of the expected product are obtained after precipitation from a cold DCM/hexane mixture and filtration by suction, m.p.=114–116° C.

reactant | tert-butyl 1-piperazinecarboxylate | 5 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-bromo-1,3-thiazole | 4.4 g | BrC=1SC=CN1 | C3H2BrNS
reactant | K2CO3 | 7.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | EtOH | 50 ml | CCO | C2H6O
product | tert-Butyl 4-(1,3-thiazol-2-yl)-1-piperazinecarboxylate | 5 g | S1C(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H19N3O2S
